US03939196
Procedure 4. 3-(p-Methoxyphenyl)cyclobutanone
2-Chloro-3-(p-methoxyphenyl)-2-cyclobuten-1-one (17.4 g., 0.084 mole), triethylamine (11.7 ml., 0.084 mole), and 2.1 g. of 10% Pd/C in 300 ml. of 10% aqueous methanol is shaken under H2 (50 psi) until reduction is complete (30 min). The mixture is filtered and the filtrate evaporated. An ether solution of the residue is washed (water), dried (MgSO4), and evaporated to give 15.4 g. of an oil which is chromatographed on alumina using benzene.

reactant | 2-Chloro-3-(p-methoxyphenyl)-2-cyclobuten-1-one | 0.084 mole, 17.4 g | ClC=1C(CC1C1=CC=C(C=C1)OC)=O | C11H9ClO2
reactant | triethylamine | 0.084 mole, 11.7 ml | C(C)N(CC)CC | C6H15N
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 3-(p-Methoxyphenyl)cyclobutanone | COC1=CC=C(C=C1)C1CC(C1)=O | C11H12O2
